US08486979B2
5-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)-1H-benzo[d]imidazole-2(3H)-thione
The title compound was prepared according to Method C using 2-mercapto-5-benzimidazolecarboxylic acid (Princeton) and N′-hydroxynicotinimidamide (Tyger). 1H NMR (300 MHz, CD3OD) δ 7.38 (d, J=8.5 Hz, 1 H), 7.65 (ddd, J=8.0, 4.9, 0.7 Hz, 1 H), 7.86 (d, J=1.0 Hz, 1 H), 8.00 (dd, J=8.1, 1.7 Hz, 1 H), 8.45 (dt, J=8.0, 1.9 Hz, 1 H), 8.81 (dd, J=4.9, 1.5 Hz, 1 H), 9.26 (dd, J=2.2, 0.9 Hz, 1 H) ppm; MS (DCI/NH3) m/z 296 (M+H)+.

reactant | 2-mercapto-5-benzimidazolecarboxylic acid | SC=1NC2=C(N1)C=CC(=C2)C(=O)O | C8H6N2O2S
reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | NH3 | N | H3N
product | 5-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)-1H-benzo[d]imidazole-2(3H)-thione | N1=CC(=CC=C1)C1=NOC(=N1)C1=CC2=C(NC(N2)=S)C=C1 | C14H9N5OS
